* source 1_4
V_V1         0 HIGH 5Vdc
X_U1         HIGH CLK 0 N15349 HIGH HIGH HIGH 0 M_UN0001 M_UN0002 N15357
+  M_UN0003 N15349 M_UN0004 $G_DPWR $G_DGND 74193 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ CLK 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.5us 1  
+ 0.5us 0  
+ 0.5us 1 
+ 0.5us 0  
