* source 1_4
X_U1         HIGH CLK 0 N15349 HIGH HIGH HIGH 0 M_UN0001 M_UN0002 N15357
+  M_UN0003 N15349 M_UN0004 $G_DPWR $G_DGND 74193 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         HIGH 0 5Vdc
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
